US05741816
By processing L-carnitine and linoleoyl chloride in the same manner as described in Reference example 15, (R)-(3-carboxy-2-linoleoyloxypropyl)trimethylammonium chloride was obtained.

reactant | L-carnitine | O[C@@H](C[N+](C)(C)C)CC([O-])=O | C7H15NO3
reactant | linoleoyl chloride | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)Cl | C18H31ClO
product | (R)-(3-carboxy-2-linoleoyloxypropyl)trimethylammonium chloride | [Cl-].C(=O)(O)C[C@H](C[N+](C)(C)C)OC(CCCCCCC\C=C/C\C=C/CCCCC)=O | InChI=1S/C25H45NO4.ClH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-25(29)30-23(21-24(27)28)22-26(2,3)4;/h9-10,12-13,23H,5-8,11,14-22H2,1-4H3;1H/b10-9-,13-12-;/t23-;/m1./s1
